US07217723B2
5-Vinylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide
A solution of 5-chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]amide (739 mg), vinyltributyltin (772 mg), cesium fluoride (740 mg), and bis(trit-butylphosphine)palladium (34 mg) in 1,4-dioxane (9 mL) was heated at 100° C. for 16 hours. After the reaction solution was cooled to room temperature, this solution was diluted with ethyl acetate, the resulting insoluble matter was removed by Celite filtration, and washed with ethyl. The residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (328 mg) was obtained as a yellow oily substance.

reactant | 5-chlorothiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]amide | 739 mg | FC1=CC=C(C=C1)CCNS(=O)(=O)C1=CSC(=C1)Cl | C12H11ClFNO2S2
reactant | vinyltributyltin | 772 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | cesium fluoride | 740 mg | [F-].[Cs+]
reactant | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Vinylthiophene-3-sulfonic acid [2-(4-fluorophenyl)ethyl]-methyl-amide | 328 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C=C)C | C15H16FNO2S2
